US07989449B2
Methyllithium (1.3 M in diethyl ether, 35 mL) was added dropwise to 3-bromo-5-fluorobenzoic acid (5 g) in diethyl ether at −78° C. keeping the temperature below −60° C. The reaction was then left to warm to −10° C. and was stirred for 1 h before being carefully quenched with saturated ammonium chloride (100 mL) until pH=3. The product was extracted with diethyl ether (2×100 mL), dried over sodium sulfate and the solvent removed by evaporation to yield 1-(3-bromo-5-fluorophenyl)ethanone as an off-white solid (4.67 g, 94%). 1H NMR (CDCl3): 2.59 (3H, s, ArCOCH3), 7.44 (1H, dd, Ar), 7.59 (1H, dd, Ar), 7.87 (1H, s, Ar).

reactant | Methyllithium | 1.3 M, 35 mL | C[Li]
reactant | 3-bromo-5-fluorobenzoic acid | 5 g | BrC=1C=C(C(=O)O)C=C(C1)F | C7H4BrFO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-bromo-5-fluorophenyl)ethanone | 4.67 g, 94% | BrC=1C=C(C=C(C1)F)C(C)=O | C8H6BrFO
